Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin / 
daptomycin / ertapenem
 
Attending: ___.
 
Chief Complaint:
neutropenia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
CC: called in by ___ clinic for leukopenia and elevated CK

HPI(4): Ms. ___ is a ___ female with h/o left TKR in ___ with
recent revision of left knee in ___ of this year complicated by
polymicrobial prosthetic joint infection currently on prlonged
course of IV dapto / ___, PE on Coumadin recently changed from
eliquis, and anxiety who presented to the ED per ___ clinic recs
after she was found to have neutropenia and elevated CK on 
safety
labs today.

In brief, she underwent total LT knee revision on ___ the
explanted LT knee sonication culture on ___ was no growth; post
op course complicated by LT knee hematoma. no accompanying
fevers; readmitted on ___. She underwent revision of LT knee
with debridement on ___ pt placed on IV vanco/cefepime; deep 
LT
knee tissue tissue cultures isolated grp B strep; enterococcus
(vanc/amp susceptible); SCN; diptheroids; kleb pneumo 
___
serratia (pan- ___ and mixed bacterial flora. She was
discharged on ___ to home with plans to complete a 6 week 
course
of IV antibiotics for polymicrobial LT knee PJI. 

The pt was readmitted on ___ with fever to 103.2; LT knee wound
drainage.  Labs demonstrated leukopenia with WBC 2.3; new ___
with creat of 2.8; vanco level of 46. The IV antibiotic regimen
was revised to meropenem 1 gram IV q12h; IV vanco was held.
She underwent repeat arthocenesis on ___ ; cell count of joint
fluid demonstrated 896 WBCs (94% polys). The joint fluid culture
was no growth. She was switched to IV daptomycin on ___. Her
renal function improved with creatinine of 2.8 on ___.9; WBC was
2.5. She was discharged on ___ with IV daptomycin 530 mg IV q24h
and ertapenem 1 gram IV q24h. She was also started on Coumadin 
at
discharge. 

Outpatient safety labs from ___ (see OMR) showed absolute
neutropenia with WBC 1.4 (2.8% polys; 88% lypmhs); HCT 26; plt
3556. Serum creat has decreased 1.3; CPK now increased at 3780. 

Patient was also seen in ___ clinic today and dressing was
changed. Per ortho note: Low suspicion for knee infection as no
active drainage or erythema. Not acute orthopedic intervention
necessary. No orthopedic admission necessary. Would agree with a
medicine admit to work up lab abnormalities. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
+ for fatigue, left knee pain, decreased appetite, constipation
and more recently low volume loose stool
- for shortness of breath, fevers, chills, nausea, abdominal
pain, chest pain, palpitations

 
Past Medical History:
-Osteoarthritis s/p LT TKR ___ s/p RT TKR ___
-prosthetic joint infection after revision of L knee ___
-pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently on eliquis
-abd wall cellulitis ___
-fibroids s/p supracervical hysterectomy, repair of bowel serosa
injury, cystoscopy (___)  
-fibromyalgia, depression, anxiety  
-left leg nerve entrapment 
-ectopic pregnancy  
-obesity, OSA, migraines, GERD, chronic lower back pain
 
Social History:
___
Family History:
-Father's health unknown except potential h/o stomach cancer.
-Uncle has unknown cancer.
-Mother living at ___ with arthritis, DM, and osteoporosis.
-Aunt recently passed at ___ ___nd heart disease.
-Grandmother with breast cancer.
-No siblings.
-Children healthy.
 
Physical Exam:
DISCHARGE EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities. Left knee with slow
healing clean based appearing wounds from recent TKA revisions
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 05:40    25.1* 3.17* 8.4* 26.3* 83 26.5 31.9* 17.2* 
52.6* 192 
Source: Line-PICC 
___ 00:08    21.1* 3.12* 8.2* 25.6* 82 26.3 32.0 17.2* 
51.4* 176 
Source: Line-Midline 
___ 04:48    15.4* 3.29* 8.5* 27.2* 83 25.8* 31.3* 17.2* 
52.5* 213 
Source: Line-SL ___ 
___ 07:40    4.8 3.25* 8.6* 27.2* 84 26.5 31.6* 17.1* 
52.0* 240 
___ 04:54    1.9* 2.82* 7.6* 23.9* 85 27.0 31.8* 16.8* 
52.5* 209 
Source: Line-___ 
___ 05:44    1.5* 2.47* 6.5* 20.7* 84 26.3 31.4* 16.6* 
51.0* 2361 
Source: Line-PICC 
___ 05:11    1.3* 2.53* 6.8* 21.3* 84 26.9 31.9* 16.6* 
51.6* 254 
Source: Line-___ 
___ 22:30    1.5* 3.16* 8.6* 27.2* 86 27.2 31.6* 16.8* 
52.7* 309 
___ 11:52    1.4*2 3.10* 8.2* 26.6* 86 26.5 30.8* 17.0* 
53.4* 356 
DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas 
Myelos Promyel Blasts NRBC ___ Other AbsNeut AbsLymp 
AbsMono AbsEos AbsBaso 
___ 05:40    58 9* 17* 5 0 0 0 4* 3* 2* 2* 2*       
16.82* 4.27* 1.26* 0.00* 0.00* 
Source: Line-___ 
___ 04:48    ___ 10 0 0 0 7* 2* 4* 4*2 4*     03 
8.47* 2.77 1.54* 0.00* 0.00* 
Source: Line-SL ___ 
___ 07:40    17*4 7* 46 17* 1 0 1* 3* 3*   4*2 2* 1*   03 
1.15* 2.26 0.82* 0.05 0.00* 
___ 04:54    7.5*   74.3* 16.6* 0.0* 0.5               
1.1*5   0.14* 1.39 0.31 0.00* 0.01 
Source: Line-___ 
___ 05:44    1* 0 94* 5 0 0 0 0 0             0.02* 1.41 
0.08* 0.00* 0.00* 
Source: Line-___ 
___ 05:11    1* 0 93* 2* 0 1 3* 0 0             0.01* 
1.25 0.03* 0.00* 0.01 
Source: Line-PICC 
___ 22:30    4.1*   85.1* 10.1 0.0* 0.7                   
0.06* 1.26 0.15* 0.00* 0.01 
___ 11:52    2.8*   88.0* 8.5 0.0* 0.7                   
0.04* 1.25 0.12* 0.00* 0.01 Review 
 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:40      7 1.3* 146* 3.5 ___ 
Source: Line-PICC 
___ 00:08    ___ 143 3.6 ___ 

ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 05:40          1821         
Source: Line-PICC 
___ 04:54          4052*1         
Source: Line-PICC 
___ 05:44          5123*1         
Source: Line-PICC 
___ 05:11    31 113*   6545*1 106*   0.4   
Source: Line-PICC 
___ 22:30    35 132*     140*   0.4   
___ 11:52    24 76*   3780*1         Review 
 

___ Imaging CT HEAD W/O CONTRAST 
IMPRESSION:  
  
No acute intracranial abnormalities. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with h/o left TKR
in ___ with recent revision of left knee in ___ of this year
complicated by polymicrobial prosthetic joint infection 
currently
on prlonged course of IV dapto / ___, PE on Coumadin recently
changed from eliquis, and anxiety who presented to the ED per ___
clinic recs after she was found to have neutropenia and elevated
CK on routine follow up labwork.

#Neutropenia (now resolved)
#Leukocytosis now due to neupogen
-neutropenia was attributed to ertapenem. ANC was as low as 40 
on admission. She was given neupogen for 3 days, with response. 
She had fevers and flu like symptoms attributed to neupogen. Her 
WBC was 25.1 on discharge day.
-Repeat CBC 1 week from discharge.

#Likely had daptomycin associated myositis
-CK was 6540 at its peak, and then downtrended and is normal on 
___ at 182.
-No weakness on exam. Generalized myalgias/malaise persisted but 
also was due to neupogen.

#polymicrobial prosthetic joint infection (recent discharge
___ and was started on daptomycin/meropenem).
-Zosyn was initiated on ___ and she was immediately taken off 
daptomycin/ertapenem on admission.
The plan prior to admission was to stop abx on ___. The dose of 
zosyn is 4.5 g q8h.

#Anemia:
-There were no signs of active bleeding or hypotension. 
Patient had decreased hgb<7. No evidence of hemolysis. Thought 
to be from marrow suppression related to ertapenem. She required 
transfusion of 1 uPRBC on ___.

#history of recurrent DVT/PEs 
-continue on Coumadin (recent switch from eliquis)
-Dose changed to 2 mg once daily on discharge. Her INR was 3.8 
but downtrended to 2.9 on day of discharge. 

Finally, of note, on ___ evening, she was found to be drowsy 
and "slurred speech"; this recovered on its own and she had CTH 
showing no intracranial bleed. She had insomnia the nights prior 
and the patient reported feeling not herself for that brief time 
period, at that time, due to being roused awake at night. 

Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care today was 40 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ertapenem Sodium 1 g IV 1X 
2. Daptomycin 530 mg IV Q24H 
3. Atenolol 100 mg PO DAILY 
4. QUEtiapine Fumarate 400 mg PO QHS 
5. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
6. Albuterol Inhaler 2 PUFF IH Q6H wheezing 
7. LORazepam 1 mg PO QHS anxiety 
8. Leuprolide Acetate 11.25 mg ___ Q3MONTHS 
9. Warfarin 4 mg PO DAILY16 
10. Ferrous Sulfate 325 mg PO BID 
11. Vitamin D 400 UNIT PO DAILY 
12. Cyclobenzaprine 10 mg PO BID:PRN spasm 
13. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO TID:PRN 
BREAKTHROUGH PAIN 

 
Discharge Medications:
1.  Piperacillin-Tazobactam 4.5 g IV Q8H 
RX *piperacillin-tazobactam 4.5 gram 4.5 gram IV every eight (8) 
hours Disp #*18 Vial Refills:*0 
2.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % 0.9 % ___ cc IV daily Refills:*0 
3.  Warfarin 2 mg PO DAILY16  
4.  Albuterol Inhaler 2 PUFF IH Q6H wheezing  
5.  Atenolol 100 mg PO DAILY  
6.  Cyclobenzaprine 10 mg PO BID:PRN spasm  
7.  Ferrous Sulfate 325 mg PO BID  
8.  Leuprolide Acetate 11.25 mg ___ Q3MONTHS  
9.  LORazepam 1 mg PO QHS anxiety  
10.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO TID:PRN 
BREAKTHROUGH PAIN  
11.  QUEtiapine Fumarate 400 mg PO QHS  
12.  Vitamin D 400 UNIT PO DAILY  
13.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  
14.Outpatient Lab Work
Draw CBC on ___ with results forwarded to Dr. ___ 
(fax ___ ). D70.2
15.Outpatient Lab Work
Draw INR on ___ with results faxed to Dr. ___ 
(fax ___ ). I26.99

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
drug induced neutropenia
daptomycin induced myositis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had lab check that showed abnormally low white cell count. 

====================================
What happened at the hospital? 
====================================

-You had low white cell count due to your new antibiotic called 
ertapenem. This drug was stopped. 
-You also had very high levels of CK, which is found from muscle 
damage. This likely was due to your new antibiotic called 
daptomycin. This drug was stopped.
-You were changed to an antibiotic called Zosyn to continue 
treatment of your joint infection.
-You were given a drug called Neupogen to increase your white 
cell count, which was successful. 

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Please follow with home services for IV Zosyn for your joint 
infection. Last day to take is on ___.
-Take your medications every day and have your CBC laboratory 
level checked as directed by your doctors, on ___.
-Have your INR level drawn on ___. Coumadin dose may require 
adjusting as instructed by your PCP ___.
-Please attend all of your doctor appointments. 

Activity: WBAT LLE, ___ brace at all times, may remove for
physical therapy or at night, do not bend knee past 70 degrees

Dressing: Apply Betadine twice daily to incision with dry
sterile dressing changes

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___